US04081476
To a solution of 1.6 g. 2(p-biphenylyl)-2-penten-4-one in 25 ml. of dry tetrahydrofuran, at 0° C., 10 ml. of a solution of 25% (W/W) of sodium aluminum diethyl dihydride in toluene is dropwise added. After 20 minutes at 0° C., the mixture is poured onto ice and extracted with chloroform. Evaporation of the chloroform gives 2-(p-biphenylyl)-2-penten-4-ol, m.p. 137° - 138° C.

reactant | 2(p-biphenylyl)-2-penten-4-one | C1(=C(C=CC=C1)C(C)=CC(C)=O)C1=CC=CC=C1 | C17H16O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium aluminum diethyl dihydride | CC[Al-]CC.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(p-biphenylyl)-2-penten-4-ol | C1(=C(C=CC=C1)C(C)=CC(C)O)C1=CC=CC=C1 | C17H18O
